US04652574
2.2 g of 6-isopropylsulfonyl-2-pyridinol and 1.48 g of methanesulfonyl chloride were dissolved in 30 ml of methylene chloride. 1.65 g of triethylamine was added dropwise to the solution at 10° C. or below. The mixture was stirred at room temperature for 2 hours and at 50° to 60° C. for 2 hours to complete the reaction. The reaction mixture was poured into 100 ml of chilled water to separate the methylene chloride layer. The water layer was further extracted with methylene chloride. The resulting organic layer was combined with the above methylene chloride layer. The combined layer was washed with water and chilled to remove the solvent. The resulting residue was purified by silica gel column chromatography (with ethyl acetate and n-hexane) to obtain 2.4 g of objective 6-isopropylsulfonyl-2-pyridyl methanesulfonate as a colorless crystal (yield: 76.0%).

reactant | 6-isopropylsulfonyl-2-pyridinol | 2.2 g | C(C)(C)S(=O)(=O)C1=CC=CC(=N1)O | C8H11NO3S
reactant | methanesulfonyl chloride | 1.48 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.65 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 6-isopropylsulfonyl-2-pyridyl methanesulfonate | 2.4 g, yield: 76.0% | CS(=O)(=O)OC1=NC(=CC=C1)S(=O)(=O)C(C)C | C9H13NO5S2
